US07855290B2
Morpholine-4-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide
4-(4-Nitrophenoxy)pyridin-2-ylamine (100 mg) was dissolved in tetrahydrofuran (5 ml) under a nitrogen atmosphere, and triethylamine (0.181 ml) and phenyl chloroformate (0.163 ml) were added while stirring and cooling in an ice water bath. The reaction mixture was allowed to warm up to room temperature, followed by stirring for 30 min. The reaction mixture was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (30 ml). The separated organic layer was washed with water (30 ml) and brine (30 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. To the residue was added N,N-dimethylformamide (5 ml), then morpholine (0.189 ml) was added, followed by stirring for 3 hr. The reaction mixture was concentrated under reduced pressure, and the resultant residue was partitioned after addition of ethyl acetate (50 ml) and a saturated aqueous solution of ammonium chloride (30 ml). The separated organic layer was washed with a saturated aqueous solution of ammonium chloride (30 ml), water (30 ml) and brine (30 ml), and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=1:3, then ethyl acetate). Fractions containing the target compound were concentrated under reduced pressure to provide roughly-purified titled compound as a pale yellow solid (128.8 mg).

reactant | 4-(4-Nitrophenoxy)pyridin-2-ylamine | 100 mg | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)N)C=C1 | C11H9N3O3
reactant | triethylamine | 0.181 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.163 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Morpholine-4-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1 | C16H16N4O5
